US05629325
7a. 5-(3-Pyridyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine (272 mg, 1.0 mmol) in toluene (10.0 mL) was added 3-pyridinyltributyltin (442 mg, 1.2 mmol) and tetrakis(triphenylphosphine)palladium(0) (35 mg, 0.03 mmol). After being refluxed overnight, the resulting mixture was cooled to room temperature. Solvent was removed, and the residue was chromatographed on a silica gel column, eluting with NH4OH/MeOH/EtOAc 0:1:9 and 1:10:90 to afford an oil (127 mg, 48%). MS (CI/NH3) m/z 270 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.70-1.93 (m, 3H), 2.00-2.12 (m, 1H), 2.28-2.39 (m, 1H), 2.52 (s, 3H), 2.67-2.76 (m, 1H), 3.11-3.18 (m, 1H), 3.98-4.13 (m, 2tt), 7.38-7.44 (m, 2H), 7.86-7.92 (m, 1H0, 8.37 (d, J=3.0 Hz, 1H), 8.46 (d, J=2.1 Hz, 1H), 8.67 (dd, J=6.0 Hz, J=1.8 Hz, 1H), 8.84 (d, J=2.1 Hz, 1H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine | 1.0 mmol, 272 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-Pyridyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 127 mg, 48% | N1=CC(=CC=C1)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C16H19N3O
